US05436264
Proceeding as in Example 3, but replacing 2-[2-(cyclopropylmethyloxy)phenoxy]ethyl methanesulfonate with 2-[2-(2-propenyloxy)phenoxy]ethyl methanesulfonate and [2-(5-chloro-1H-indol-3-yl)-1,1-dimethylethyl]amine with [2-(1H-indol-3-yl)-1,1-dimethylethyl]amine, gave [2-(1H-indol-3-yl)-1,1-dimethylethyl]{2-[2-(2-propenyloxy)phenoxy]ethyl}amine hydrochloride, m.p. 55°-156° C.

reactant | 2-[2-(2-propenyloxy)phenoxy]ethyl methanesulfonate | CS(=O)(=O)OCCOC1=C(C=CC=C1)OCC=C | C12H16O5S
reactant | [2-(5-chloro-1H-indol-3-yl)-1,1-dimethylethyl]amine | ClC=1C=C2C(=CNC2=CC1)CC(C)(C)N | C12H15ClN2
reactant | [2-(1H-indol-3-yl)-1,1-dimethylethyl]amine | N1C=C(C2=CC=CC=C12)CC(C)(C)N | C12H16N2
product | [2-(1H-indol-3-yl)-1,1-dimethylethyl]{2-[2-(2-propenyloxy)phenoxy]ethyl}amine hydrochloride | Cl.N1C=C(C2=CC=CC=C12)CC(C)(C)NCCOC1=C(C=CC=C1)OCC=C | InChI=1S/C23H28N2O2.ClH/c1-4-14-26-21-11-7-8-12-22(21)27-15-13-25-23(2,3)16-18-17-24-20-10-6-5-9-19(18)20;/h4-12,17,24-25H,1,13-16H2,2-3H3;1H
